US09056874B2
(±)-2-(Hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (±)-2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (160 mg, 0.231 mmol) in CH2Cl2 (2 mL) was added BF3—OEt2 (0.059 mL, 0.462 mmol) at 0° C., and then the mixture was stirred at room temperature for 2.5 h. The reaction was quenched by 7N NH3 in MeOH. The mixture was filtered off through SiO2. The SiO2 cake was washed with CH2Cl2/MeOH (c.a. 6/1). The combined organics were concentrated to give the title compound, without need of further purification. MS (ESI+) m/z 563.3 (M+H).

reactant | (±)-2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2COC2=CC=CC=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C38H40N4O5SSi
reactant | (±)-2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.231 mmol, 160 mg | OC(C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)C2=C1C=CN(C1=C(C=C2COC2=CC=CC=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C38H40N4O5SSi
reactant | BF3 OEt2 | 0.462 mmol, 0.059 mL | B(F)(F)F.O(CC)CC
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-(Hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2COC2=CC=CC=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C32H26N4O4S
